US07612089B2
A. Preparation of 3-cyanobenzylamine
A solution of the N-(3-cyanobenzyl)phthalimide (2.70 g, 10.4 mmol) and hydrazine hydrate (2.5 mL, 51 mmol) in MeOH (50 mL) was heated to reflux for 1 h. After cooling at room temperature, CH2Cl2 and aq. 1N NaOH were added. The CH2Cl2 layer was separated, washed with brine, dried over Na2SO4, concentrated in vacuo to give an oil (1.10 g), which was pure enough for the next reaction. MS 133 (M+H) and 116 (M−NH2)

reactant | N-(3-cyanobenzyl)phthalimide | 10.4 mmol, 2.70 g | C(#N)C=1C=C(CN2C(C=3C(C2=O)=CC=CC3)=O)C=CC1 | C16H10N2O2
reactant | hydrazine hydrate | 51 mmol, 2.5 mL | O.NN
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | NaOH | 1N | [OH-].[Na+]
solvent | MeOH | 50 mL | CO | CH4O
product | 3-cyanobenzylamine | 1.10 g | C(#N)C=1C=C(CN)C=CC1 | C8H8N2
